* ============================================================
* Full block simulation suite — IHP SG13G2 77 GHz Radar SoC
* Run: ngspice -b sim_all_blocks.spice -o sim_results.log
* ============================================================

.param vcc_val=3.3

* PDK models
.lib /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib hbt_typ
.lib /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib res_typ
.lib /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerCAP.lib cap_typ

* ==== TEST 1: BIAS / BANDGAP ====
* Widlar bandgap with mirror-forced equal currents
* Q3/Q4 mirror forces I1=I2; ΔVBE across RPTAT sets IPTAT
XQ1 c1 c1 e1 0 npn13G2l
XQ2 c2 c2 e2 0 npn13G2l m=8
RPTAT e1 e2 4.5k
RE1 e2 0 500
* Current mirror (Q3/Q4 force equal collector currents)
XQ3 c1 bm em1 0 npn13G2l
XQ4 c2 bm em2 0 npn13G2l
REM1 em1 0 100
REM2 em2 0 100
* Mirror bias: base driven from c1
Rbm c1 bm 1k
* VREF output: sum of VBE + IPTAT*R
RREF c1 vref_out 2k
RVREF vcc vref_out 3k
* Startup
Rstart vcc c1 20k
Rstart2 vcc c2 20k
VCC vcc 0 DC 3.3

.control
op
echo "=== BIAS RESULTS ==="
echo "VREF = $&v(vref_out) V"
echo "VBE_Q1 = $&v(c1) V"
echo "I_branch1 = $&@rstart[i] A"
dc temp -40 125 5
meas dc vref_27 find v(vref_out) at=27
meas dc vref_min min v(vref_out)
meas dc vref_max max v(vref_out)
let tc_ppm = 1e6*(vref_max-vref_min)/vref_27/165
echo "VREF @ 27C = $&vref_27 V"
echo "VREF range = $&vref_min to $&vref_max V"
echo "TC = $&tc_ppm ppm/C"
echo ""
destroy all

* ==== TEST 2: IFA (IF Amplifier) ====
alter VCC dc=3.3
reset
* Diff pair with 500Ω load, 2mA tail
dc temp 27 27 1
alter @VCC[dc]=3.3
ac dec 50 1k 10g
meas ac ifa_gain_db max vdb(ifa_outp,ifa_outn)
meas ac ifa_bw when vdb(ifa_outp,ifa_outn)=ifa_gain_db-3 fall=1
echo "=== IFA RESULTS ==="
echo "Gain = $&ifa_gain_db dB"
echo "BW = $&ifa_bw Hz"
echo ""
destroy all

* ==== TEST 3: DIGIF (CML buffer) ====
dc temp 27 27 1
tran 10p 2n
meas tran dig_swing pp v(dout) from=1n to=2n
meas tran dig_rise trig v(dout) val=2.7 rise=2 targ v(dout) val=3.1 rise=2
echo "=== DIGIF RESULTS ==="
echo "Swing = $&dig_swing V"
echo "Rise time = $&dig_rise s"
echo ""
quit
.endc

* ==== IFA subcircuit ====
.subckt IFA_DIFF inp inn outp outn vcc gnd
XQ1 outp inp tail gnd npn13G2l m=2
XQ2 outn inn tail gnd npn13G2l m=2
RL1 vcc outp 500
RL2 vcc outn 500
ITAIL tail gnd DC 2m
.ends IFA_DIFF

XIFA ifa_inp ifa_inn ifa_outp ifa_outn vcc 0 IFA_DIFF
VIN_P ifa_inp 0 DC 0.9 AC 0.5m
VIN_N ifa_inn 0 DC 0.9 AC -0.5m

* ==== CML buffer ====
XD1 dout din dtail 0 npn13G2l m=2
XD2 doutn dinb dtail 0 npn13G2l m=2
RD1 vcc dout 50
RD2 vcc doutn 50
IDTAIL dtail 0 DC 4m
VDIN din 0 DC 0.9 PULSE(0.7 1.1 0 20p 20p 500p 1n)
VDINB dinb 0 DC 0.9

.end