* Bandgap Reference — Self-biased with behavioral PMOS mirror
* The mirror copies branch1 current to branch2 (GVCCS)
* Current self-sets to IPTAT = ΔVBE/RPTAT
.lib /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib hbt_typ
.lib /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib res_typ

VCC vcc 0 DC 3.3

* Sense current in branch 1 via 0V source
VI1 vcc c1_top DC 0
RC1 c1_top c1 1k

* Mirror: copy branch1 current to branch2 (ideal PMOS mirror behavior)
F_mirror vcc c2 VI1 1
RC2_dummy c2 c2x 0.001

* Q1(1x) and Q2(8x), diode-connected
XQ1 c1 c1 ecom 0 npn13G2l
XQ2 c2x c2x e2 0 npn13G2l m=8

* RPTAT from e2 to ecom: ΔVBE = VT*ln(8) appears across it
RPTAT e2 ecom 5k

* R1 from common emitter node to GND
* Both IE1 and IRPTAT flow through R1
* VREF = VBE_Q1 + V(ecom) = VBE + 2*I*R1
R1 ecom 0 param_r1

* Startup (small leakage to avoid degenerate solution)
Rstart vcc c1 2Meg

* Output divider: VREF = V(c1) * Rbot/(Rtop+Rbot) = 3.24 * 10/27 ≈ 1.2V
* TC preserved since divider is ratiometric
Rtop c1 vref 17k
Rbot vref 0 10k

.param param_r1 = 20k

.control
op
echo "=== BANDGAP FINAL ==="
echo "V(c1) = $&v(c1) V"
echo "VREF = $&v(vref) V"
echo "I_branch = $&@vi1[i] A"

dc temp -40 125 5
meas dc vref_27 find v(vref) at=27
meas dc vref_min min v(vref)
meas dc vref_max max v(vref)
let tc = 1e6*(vref_max-vref_min)/vref_27/165
echo "VREF@27C = $&vref_27 V"
echo "Range = $&vref_min to $&vref_max V"
echo "TC = $&tc ppm/C"
quit
.endc
.end