* CML Output Buffer — Single channel
.lib /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib hbt_typ
.lib /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib res_typ

VCC vcc 0 DC 3.3
VDIN din 0 DC 0.9 PULSE(0.7 1.1 0 20p 20p 500p 1n)
VDINB dinb 0 DC 0.9

XQ1 outp din tail 0 npn13G2l m=2
XQ2 outn dinb tail 0 npn13G2l m=2
RL1 vcc outp 50
RL2 vcc outn 50
ITAIL tail 0 DC 8m

.control
tran 5p 3n
let vdiff = v(outp) - v(outn)
meas tran swing pp vdiff from=1.5n to=3n
meas tran trise trig vdiff val=-0.1 rise=2 targ vdiff val=0.1 rise=2
meas tran tfall trig vdiff val=0.1 fall=2 targ vdiff val=-0.1 fall=2
echo "=== DIGIF CML BUFFER ==="
print swing
print trise
print tfall
quit
.endc
.end