* ============================================================
* 77 GHz FMCW VIBROMETER — Micro-Displacement Detection
*
* Models inter-chirp phase variation from surface vibration
* above a buried landmine.
*
* Physics:
*   - Target vibrates: d(t) = A*sin(2π*f_vib*t)
*   - Phase shift per chirp: Δφ = 4π*d(t)/λ
*   - λ = c/fc = 3.896 mm at 77 GHz
*   - For A=1µm: Δφ_max = 4π*1e-6/3.896e-3 = 3.23 mrad
*
* The beat signal phase encodes target displacement:
*   v_beat(t) = A_beat * cos(2π*f_beat*t + φ₀ + Δφ(t_chirp))
*
* We simulate 64 chirps (64ms) with vibration at 150 Hz
* (typical soil-coupled resonance of buried AP mine)
* ============================================================

.param vcc_nom=3.3
.param tchirp=1m
.param bw=4e9
.param fc=77e9
.param c_light=3e8
.param lambda={c_light/fc}

* Target parameters (r_mine chosen for integer beat freq: 187kHz)
.param r_ground=3
.param r_mine=7.0125
.param rcs_ground=1
.param rcs_mine=0.01

* Vibration: 1 µm amplitude at 150 Hz (mine resonance)
.param vib_amp=1u
.param f_vib=150

* Beat frequencies
.param fb_ground={2*bw*r_ground/(c_light*tchirp)}
.param fb_mine={2*bw*r_mine/(c_light*tchirp)}

* Phase modulation from vibration: Δφ(t) = 4π*d(t)/λ
* d(t) = vib_amp * sin(2π*f_vib*t)
* This modulates the PHASE of the mine's beat signal

* Signal amplitudes (post LNA+Mixer)
.param v_ground=2.5m
.param v_mine=25u

* === SUPPLY ===
VCC vcc 0 DC {vcc_nom}

* === BEAT SIGNALS WITH VIBRATION-INDUCED PHASE MODULATION ===
* Ground return: static phase (no vibration)
* Mine return: phase modulated by displacement
*   v_mine_beat = V * cos(2π*fb_mine*t + 4π*vib_amp*sin(2π*f_vib*t)/λ)
*   Using cos(A+B) ≈ cos(A) - B*sin(A) for small B (narrow-band FM)
*   Δφ = 4π*1e-6/3.896e-3 = 3.23e-3 rad (small angle approx valid)

B_if_p if_p 0 V = {v_ground}*sin(6.283*{fb_ground}*time) + {v_mine}*sin(6.283*{fb_mine}*time + 4*3.14159*{vib_amp}*sin(6.283*{f_vib}*time)/{lambda})
B_if_n if_n 0 V = -{v_ground}*sin(6.283*{fb_ground}*time) - {v_mine}*sin(6.283*{fb_mine}*time + 4*3.14159*{vib_amp}*sin(6.283*{f_vib}*time)/{lambda})

* === IF AMPLIFIER (40 dB, 10 MHz BW) ===
.subckt IFA inp inn outp outn
.param g=5 bw_ifa=10e6 vmax=0.5
B_p s1p 0 V = {vmax}*tanh({g}/{vmax}*V(inp,inn))
B_n s1n 0 V = -{vmax}*tanh({g}/{vmax}*V(inp,inn))
R1p s1p s1f 1
C1p s1f 0 {1/(6.283*{bw_ifa}*1.41)}
R1n s1n s1nf 1
C1n s1nf 0 {1/(6.283*{bw_ifa}*1.41)}
B_2p outp 0 V = {vmax}*tanh({g}/{vmax}*V(s1f,s1nf))
B_2n outn 0 V = -{vmax}*tanh({g}/{vmax}*V(s1f,s1nf))
R2p outp opf 1
C2p opf 0 {1/(6.283*{bw_ifa}*1.41)}
R2n outn onf 1
C2n onf 0 {1/(6.283*{bw_ifa}*1.41)}
.ends IFA

XIFA if_p if_n ifa_p ifa_n IFA

* === VGA ===
.param vga_gain=0.55
B_vga_p vga_p 0 V = {vga_gain}*V(ifa_p,ifa_n)
B_vga_n vga_n 0 V = -{vga_gain}*V(ifa_p,ifa_n)
R_vgap vga_p vgapf 1
C_vgap vgapf 0 {1/(6.283*20e6)}
R_vgan vga_n vganf 1
C_vgan vganf 0 {1/(6.283*20e6)}

* === ADC (12-bit) ===
.param vref=1.2
B_adc dout 0 V = 3.3*min(1,max(0,(V(vga_p,vga_n)/{vref}+0.5)))
R_adc dout doutf 10
C_adc doutf 0 10p

* === SIMULATION: 64 chirps = 64 ms ===
* Timestep 500ns gives ~10 samples per beat cycle at 187kHz
.tran 500n 64m

.control
run

* Save full ADC output for post-processing
wrdata /home/bthomas3/Videos/77GHz_phased_array/layout/testbenches/simulations/fmcw_vibrometer_raw.dat v(dout) v(if_p) v(if_n)

echo ""
echo "═══════════════════════════════════════════════════════════════"
echo "  77 GHz FMCW VIBROMETER — Simulation Complete"
echo "═══════════════════════════════════════════════════════════════"
echo ""
echo "  Simulation parameters:"
echo "    64 chirps x 1ms = 64ms total"
echo "    Vibration: 1 um at 150 Hz (buried mine resonance)"
echo "    Phase modulation: 3.23 mrad peak"
echo "    Lambda = 3.896 mm (77 GHz)"
echo ""
echo "  Targets:"
echo "    Ground:   R=3m, f_beat=80kHz, static"
echo "    Landmine: R=7m, f_beat=187kHz, vibrating"
echo ""
echo "  Data saved to fmcw_vibrometer_raw.dat"
echo "  Run FFT post-processing for vibration extraction"
echo "═══════════════════════════════════════════════════════════════"

quit
.endc
.end